US08912186B2
1) 1-(Naphthalen-2-yl)-3-(quinolin-2-yl)prop-2-en-1-one
Synthesised according to example 1.59.1 using quinoline-2-carbaldehyde (3.0 g, 19.09 mmol) and 1-(naphthalen-2-yl)ethanone (3.25 g, 19.09 mmol); yellow solid; yield: 4.95 g (84%);

reactant | quinoline-2-carbaldehyde | 19.09 mmol, 3.0 g | N1=C(C=CC2=CC=CC=C12)C=O | C10H7NO
reactant | 1-(naphthalen-2-yl)ethanone | 19.09 mmol, 3.25 g | C1=C(C=CC2=CC=CC=C12)C(C)=O | C12H10O
product | 1-(Naphthalen-2-yl)-3-(quinolin-2-yl)prop-2-en-1-one | C1=C(C=CC2=CC=CC=C12)C(C=CC1=NC2=CC=CC=C2C=C1)=O | C22H15NO
